*$
* OPA548
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: OPA548
* Date: 07OCT2022
* Model Type: ALL IN ONE
* EVM Order Number: OPA548EVM
* EVM Users Guide: SBOU132-November 2015
* Datasheet: SBOS070D - OCTOBER 1997-REVISED DECEMBER 2019
*
* Model Version: Final 1.2
*
*****************************************************************************
* 
* Updates:
*
* Final 1.2
* Updated PSpice symbol
* Moved all .MODEL inside main SUBCKT
* Added .ENDS name as OPA548
*
* Final 1.1 :
* Modified June 25, 2013 by Tim Green to add 1MHz Pole in Aol
* Modified CPOLE2 4/27/2016 to match Collin Wells Lab Data for Aol Gain/Phase
*
* Final 1.0 : 
* Release to Web
*
*****************************************************************************
* 1 = NON-INVERTING INPUT
* 2 = INVERTING INPUT
* 3 = CURRENT LIMIT
* 4 = NEGATIVE RAIL
* 5 = POSITIVE RAIL
* 6 = OUTPUT
* 7 = ENABLE/STATUS
.SUBCKT OPA548 1   2   3   4   5   6   7
*****************************************************************************
R1       17  13    13K
R2       17  14    13K
RIN2     12  2     1K
RIN5     15  4     1K
RIN6     16  4     1K
RBLEED   26  4     10MEG 
GAIN     26  4   260  0   1.6M
EPOLE    160 0   16  15   1
Rpole2   160 260 1K
CPOLE2   260 0  400P 
IBIAS    19  30   300UA
R3       5   20    2K
R4       5   23    6K
QGAIN    25  26  4    NMAX 1
CCOMP    27  25    15P
R5       5   24    667
EBUF     22  5   21  5    1
R7       7   4     250K
QHIGH    5   48  49   NMIN 960
QHDRV    5   45  47   NMIN 60
R47      47  48    14
R49      49  40    0.4
QLDRV    5   35  37   NMIN 60
R37      37  38    35
R39      39  4     0.4
GLOWER   4   31  30  25   0.5M
CCOUT    35  36    11P
RCOUT    36  40    1680
RCOMP    26  27    1000
D34      31  34   DIODE 100
RBL      35  4     10K
Q33      33  33  40   NMIN 5
Q30      30  30  33   NMIN 5
E32      32  4   30  40   1.55
D32      32  31   DIODE 100
Q3       19  19  20   LAT5 3
RB45     25  45    100
V475     28  4    DC 4.75
RCL      3   28    13750
RB35     34  35    100
GLCL     42  4   39  41   .05
D42      35  42   DIODE 100
D43      42  43   DIODE 100
GHCL     52  4   49  51   .05
D52      45  52   DIODE 100
D53      52  53   DIODE 100
D25      6   25   DIODE 100
DIN2     2   10   ZENERD 1
DIN1     1   10   ZENERD 1
HLREF    41  4    V475 -6000
HHREF    51  40   V475 -6000
SW2      6   40  7   4    VSM
D7       54  7    DIODE 100
VES      55  4    DC 3.5
D55      54  55   DIODE 100
SW1      21  19  7   4    VSM
R21      5   21    100K
C40      30  40    150P
ELCL     43  4   37  4    1
EHCL     53  4   47  4    1
VCM      18  17   DC 1.3
VCLMP    29  4    DC 1
RIN1     1   11    1K
QIN2     16  12  14   PSUB 1
RSHTDWN  6   25    25K
R48      48  40    2400
R38      38  4     1200
CIN1     4   1     3P
CIN2     2   4     3P
CIN3     2   1     2.5P
DP       4   5    DIODE 100
DPU1     1   5    DIODE 100
DPL1     4   1    DIODE 100
DPL2     4   2    DIODE 100
DPU2     2   5    DIODE 100
DPU3     3   5    DIODE 100
DPL3     4   3    DIODE 100
DPL6     4   6    DIODE 100
DPU6     6   5    DIODE 100
DPU7     7   5    DIODE 100
DPL7     4   7    DIODE 100
QIN1     15  11  13   PSUB 1
Q4       18  22  23   LAT5 1
Q5       25  22  24   LAT5 9
DC6      29  6    DIODE 100
DC26     29  26   DIODE 100
QLOW     40  38  39   NMIN 960
IEO      5   54   70UA
ILEAK    6   4    3M
.MODEL  NMIN NPN IS=6E-16 BF=150 VAF=140 CJE=5E-13 CJC=2.5E-13 TF=2.5E-10 
+ RC=600
.MODEL  NMAX NPN IS=6E-16 BF=3000 VAF=140 CJE=5E-13 CJC=2.5E-13 TF=2.5E-10 
+ RC=1000
.MODEL  ZENERD D IS=6E-16 CJO=1E-18 RS=1 BV=5.2
.MODEL  DIODE D IS=6E-16 CJO=1E-18 RS=1 BV=80
.MODEL  LAT5 PNP IS=4E-15 BF=80 VAF=80 CJE=1E-13 CJC=6E-13 TF=3.5E-8 RC=1200
.MODEL  PSUB PNP IS=6E-16 BF=360 VAF=140 CJE=5E-13 CJC=2.5E-13 TF=2.5E-10 
+ RC=1200
.MODEL  VSM VSWITCH(RON=.02 ROFF=5E5 VON=2.3  VOFF=1.5)
.ENDS OPA548
*
